US06887871B2
(a) [(3R)-3-(2-Cyano-5-methoxyphenoxy)-3-phenylpropyl]methylcarbamic acid, 1,1-dimethylethyl ester
To a stirred mixture of 2-cyano-5-methoxyphenol (149 mg, 1.00 mmol) and [(3S)-3-hydroxy-3-phenylpropyl]methylcarbamic acid 1,1-dimethylethyl ester (265 mg, 1.00 mmol) in tetrahydrofuran (10 ml) under nitrogen was added triphenylphosphine (290 mg, 1.10 mmol) followed by diethyl diazodicarboxylate (192 mg, 1.10 mmol). The reaction mixture was stirred at room temperature for 24 h, then evaporated to dryness. The residue was eluted down a flash chromatography column using 30% ethyl acetate/isohexane as eluent to give 275 mg (69%) of the subtitle compound as an oil.

reactant | 2-cyano-5-methoxyphenol | 1.00 mmol, 149 mg | C(#N)C1=C(C=C(C=C1)OC)O | C8H7NO2
reactant | [(3S)-3-hydroxy-3-phenylpropyl]methylcarbamic acid 1,1-dimethylethyl ester | 1.00 mmol, 265 mg | CC(C)(C)OC(N(C)CC[C@@H](C1=CC=CC=C1)O)=O | C15H23NO3
reactant | triphenylphosphine | 1.10 mmol, 290 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazodicarboxylate | 1.10 mmol, 192 mg | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [(3R)-3-(2-Cyano-5-methoxyphenoxy)-3-phenylpropyl]methylcarbamic acid, 1,1-dimethylethyl ester | 275 mg, 69% | C(#N)C1=C(O[C@H](CCN(C(OC(C)(C)C)=O)C)C2=CC=CC=C2)C=C(C=C1)OC | C23H28N2O4
